US05948911
Following the procedure of Example 1, the reaction of 4-fluorobenzylamine with 2,4-dichloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidine yields 2-chloro-5,6-,7,8-tetrahydro-4-(4-fluorobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine.

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 2,4-dichloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)Cl | C10H8Cl2N2S
product | 2-chloro-5,6-,7,8-tetrahydro-4-(4-fluorobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC=C(C=C1)F | C17H15ClFN3S
